US04208346
A mixture of 141 g. of disodium benzene-1,3-disulfonate in 450 ml. of concentrated sulfuric acid is stirred and heated to 65° C. During the course of 31/4 hours, 120 g. of sodium nitrate are added in portions while the mixture is stirred and maintained at 70° C. After addition is complete, the mixture is cooled to 5° C. and 900 g. of ice are added with stirring. The mixture is filtered overnight with vacuum. The cake is warmed on a steam bath in 250 ml. of hot water, filtered and washed with hot water. The combined filtrate and wash is cooled to 5° C. and the resulting crystals are collected by filtration giving disodium 5-nitrobenzene-1,3-disulfonate.

reactant | disodium benzene-1,3-disulfonate | C1(=CC(=CC=C1)S(=O)(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrate | [N+](=O)([O-])[O-].[Na+]
product | disodium 5-nitrobenzene-1,3-disulfonate | [N+](=O)([O-])C=1C=C(C=C(C1)S(=O)(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+] | InChI=1S/C6H5NO8S2.2Na/c8-7(9)4-1-5(16(10,11)12)3-6(2-4)17(13,14)15;;/h1-3H,(H,10,11,12)(H,13,14,15);;/q;2*+1/p-2
